US08623889B2
To a solution of (S)-3-(methylsulfonyloxy)butyl benzoate (82.6 mg, 0.303 mmol) in N,N-dimethylformamide (2.0 mL, 26 mmol) was added N-(7-hydroxyisoquinolin-3-yl)cyclopropanecarboxamide (49.7 mg, 0.218 mmol) and cesium carbonate (147.4 mg, 0.4524 mmol). The reaction mixture was stirred at 50° C. for 4 hours. To the reaction mixture was then added 2.0 M of potassium hydroxide in methanol (1.0 mL), and the temperature was maintained at 50° C. for one hour. The reaction was neutralized with 10% aqueous citric acid and extracted with dichloromethane (3×50 mL). The combined organic extracts were dried over MgSO4, filtered, and evaporated in vacuo. The crude product was purified via reverse phase HPLC and lyophilized to yield 29.5 mg (45%) of (R)—N-(7-(4-hydroxybutan-2-yloxy)isoquinolin-3-yl)cyclopropanecarboxamide. LCMS (ESI): RT (min)=3.446, M+H=301.1, method=E; 1H NMR (400 MHz, DMSO-d6) δ 10.72 (s, 1H), 8.98 (s, 1H), 8.36 (s, 1H), 7.77 (d, J=9.0 Hz, 1H), 7.45 (d, J=2.3 Hz, 1H), 7.32 (dd, J=8.9, 2.5 Hz, 1H), 4.73 (h, J=6.1 Hz, 1H), 4.52 (t, J=5.0 Hz, 1H), 3.56 (dd, J=11.5, 6.1 Hz, 2H), 2.10-1.98 (m, 1H), 1.92 (td, J=12.9, 6.2 Hz, 1H), 1.74 (td, J=12.6, 6.5 Hz, 1H), 1.33 (d, J=6.1 Hz, 3H), 0.90-0.73 (m, 4H).

reactant | (S)-3-(methylsulfonyloxy)butyl benzoate | 0.303 mmol, 82.6 mg | C(C1=CC=CC=C1)(=O)OCC[C@H](C)OS(=O)(=O)C | C12H16O5S
reactant | N,N-dimethylformamide | 26 mmol, 2.0 mL | CN(C=O)C | C3H7NO
reactant | N-(7-hydroxyisoquinolin-3-yl)cyclopropanecarboxamide | 0.218 mmol, 49.7 mg | OC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C13H12N2O2
reactant | cesium carbonate | 0.4524 mmol, 147.4 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium hydroxide | 2.0 M | [OH-].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 1.0 mL | CO | CH4O
product | (R)—N-(7-(4-hydroxybutan-2-yloxy)isoquinolin-3-yl)cyclopropanecarboxamide | 29.5 mg, 45% | OCC[C@@H](C)OC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C17H20N2O3
